US05958376
N,N'-bis[2,4,6-triiodo-3-(2-hydroxyethylaminocarbonyl)-5-(2,3-dihydroxypropylaminocarbonyl)phenyl]-N-(2,3-dihydroxypropyl)urea
N,N'-Bis[2,4,6-triiodo-3-(2-hydroxyethylaminocarbonyl)-5-(2,3-dihydroxypropylaminocarbonyl)-phenyl]urea (0.353 g, 0.257 mmol) was dissolved in a mixture of water (8 ml) and 2M aqueous NaOH (0.9 ml) together with 1-bromo-2,3-dihydroxypropane (0.136 ml, 1.55 mmol). After stirring at room temperature for 160 h, the solution was neutralized using a strongly acidic cation exchange resin. After evaporation, the residue was purified using preparative HPLC. Yield: 100 mg (27%) of the product as a white solid.

reactant | N,N'-Bis[2,4,6-triiodo-3-(2-hydroxyethylaminocarbonyl)-5-(2,3-dihydroxypropylaminocarbonyl)-phenyl]urea | 0.257 mmol, 0.353 g | IC1=C(C(=C(C(=C1C(=O)NCCO)I)C(=O)NCC(CO)O)I)NC(=O)NC1=C(C(=C(C(=C1I)C(=O)NCC(CO)O)I)C(=O)NCCO)I | C27H30I6N6O11
reactant | 1-bromo-2,3-dihydroxypropane | 1.55 mmol, 0.136 ml | BrCC(CO)O | C3H7BrO2
solvent | water | 8 ml | O | H2O
solvent | NaOH | 2M, 0.9 ml | [OH-].[Na+]
product | N,N'-bis[2,4,6-triiodo-3-(2-hydroxyethylaminocarbonyl)-5-(2,3-dihydroxypropylaminocarbonyl)phenyl]-N-(2,3-dihydroxypropyl)urea | IC1=C(C(=C(C(=C1C(=O)NCCO)I)C(=O)NCC(CO)O)I)N(C(=O)NC1=C(C(=C(C(=C1I)C(=O)NCC(CO)O)I)C(=O)NCCO)I)CC(CO)O | C30H36I6N6O13
